// File: VOTER3X1.spi
// Created: Thu Jan 22 07:10:28 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/sky130_rhbd/pex/VOTER3X1.pex.spice"
subckt VOTER3X1 (  B C A VDD GND Y )
// 
// Y	Y
// GND	GND
// VDD	VDD
// A	A
// C	C
// B	B
M0_noxref ( N_GND_M0_noxref_d N_B_M0_noxref_g N_noxref_10_M0_noxref_s \
 noxref_145 ) NMOS l=0.163119 w=2.35104 m=1
M1_noxref ( N_noxref_4_M1_noxref_d N_A_M1_noxref_g N_noxref_10_M0_noxref_s \
 noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( noxref_11 N_B_M2_noxref_g N_noxref_13_M2_noxref_s noxref_145 ) \
 NMOS l=0.163119 w=2.35104 m=1
M3_noxref ( N_noxref_4_M3_noxref_d N_C_M3_noxref_g N_noxref_13_M2_noxref_s \
 noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M4_noxref ( N_GND_M4_noxref_d N_C_M4_noxref_g N_noxref_14_M4_noxref_s \
 noxref_145 ) NMOS l=0.163119 w=2.35104 m=1
M5_noxref ( N_noxref_4_M5_noxref_d N_A_M5_noxref_g N_noxref_14_M4_noxref_s \
 noxref_145 ) NMOS l=0.163129 w=2.31397 m=1
M6_noxref ( N_Y_M6_noxref_d N_noxref_4_M6_noxref_g N_GND_M6_noxref_s \
 noxref_145 ) NMOS l=0.163346 w=2.31104 m=1
M7_noxref ( N_noxref_6_M7_noxref_d N_B_M7_noxref_g N_VDD_M7_noxref_s \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M8_noxref ( N_VDD_M8_noxref_d N_B_M8_noxref_g N_noxref_6_M7_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M9_noxref ( N_noxref_6_M9_noxref_d N_A_M9_noxref_g N_VDD_M8_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M10_noxref ( N_VDD_M10_noxref_d N_A_M10_noxref_g N_noxref_6_M9_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M11_noxref ( N_noxref_7_M11_noxref_d N_B_M11_noxref_g N_noxref_6_M11_noxref_s \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M12_noxref ( N_noxref_6_M12_noxref_d N_B_M12_noxref_g N_noxref_7_M11_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M13_noxref ( noxref_12 N_C_M13_noxref_g N_noxref_6_M12_noxref_d noxref_143 ) \
 PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M14_noxref ( N_noxref_6_M14_noxref_d N_C_M14_noxref_g noxref_12 noxref_143 ) \
 PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M15_noxref ( N_noxref_4_M15_noxref_d N_C_M15_noxref_g N_noxref_7_M15_noxref_s \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M16_noxref ( N_noxref_7_M16_noxref_d N_C_M16_noxref_g N_noxref_4_M15_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M17_noxref ( N_noxref_4_M17_noxref_d N_A_M17_noxref_g N_noxref_7_M16_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M18_noxref ( N_noxref_7_M18_noxref_d N_A_M18_noxref_g N_noxref_4_M17_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M19_noxref ( N_Y_M19_noxref_d N_noxref_4_M19_noxref_g N_VDD_M19_noxref_s \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M20_noxref ( N_VDD_M20_noxref_d N_noxref_4_M20_noxref_g N_Y_M19_noxref_d \
 noxref_143 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
c_2054 ( noxref_11 0 ) capacitor c=0.0069842f //x=4.81 //y=1.045
c_2065 ( noxref_12 0 ) capacitor c=0.0143171f //x=5.775 //y=5.205
// 
include "/import/yukari1/lrburle/sky130RHBDlib/sky130_rhbd/pex/VOTER3X1.pxi.spice"
// 
ends VOTER3X1
// 
// 
